US09290511B2
2-Chloro-5-phenyl-thieno[2,3-d]pyrimidine (150 mg, 0.61 mmol), 4-(2-pyrrolidin-1-ylethoxymethyl)piperidine (293 mg, 0.92 mmol) and potassium carbonate (253 mg, 1.83 mmol) were combined in acetonitrile (2 mL) and heated in the microwave at 150° C. for 30 minutes. The reaction mixture was diluted with DCM (10 mL), washed with water (10 mL), dried over Na2SO4 and concentrated at reduced pressure. The resulting residue was purified by basic prep HPLC to afford 5-phenyl-2-[4-(2-pyrrolidin-1-ylethoxymethyl)-1-piperidyl]thieno[2,3-d]pyrimidine (67 mg). LCMS [M+H]+=423.2.

reactant | 2-Chloro-5-phenyl-thieno[2,3-d]pyrimidine | 0.61 mmol, 150 mg | ClC=1N=CC2=C(N1)SC=C2C2=CC=CC=C2 | C12H7ClN2S
reactant | 4-(2-pyrrolidin-1-ylethoxymethyl)piperidine | 0.92 mmol, 293 mg | N1(CCCC1)CCOCC1CCNCC1 | C12H24N2O
reactant | potassium carbonate | 1.83 mmol, 253 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-phenyl-2-[4-(2-pyrrolidin-1-ylethoxymethyl)-1-piperidyl]thieno[2,3-d]pyrimidine | 67 mg | C1(=CC=CC=C1)C1=CSC=2N=C(N=CC21)N2CCC(CC2)COCCN2CCCC2 | C24H30N4OS
